US07727985B2
4-methyl-pyrimidine-5-carboxylic acid (6-chloro-7-methoxy-9H-beta-carbolin-8-yl)-amide
The desired compound was prepared according to Method A from 6-chloro-7-methoxy-9H-beta-carbolin-8-ylamine and 4-methyl-5-pyrimidine carboxylic acid in 80% yield.

reactant | 6-chloro-7-methoxy-9H-beta-carbolin-8-ylamine | ClC=1C=C2C=3C=CN=CC3NC2=C(C1OC)N | C12H10ClN3O
reactant | 4-methyl-5-pyrimidine carboxylic acid | CC1=NC=NC=C1C(=O)O | C6H6N2O2
product | 4-methyl-pyrimidine-5-carboxylic acid (6-chloro-7-methoxy-9H-beta-carbolin-8-yl)-amide | 80% yield | ClC=1C=C2C=3C=CN=CC3NC2=C(C1OC)NC(=O)C=1C(=NC=NC1)C | C18H14ClN5O2
